US04705793
4-Amino-6-(n-butyl)-6,7-dihydro-1-(pent-3-ynyl)pyrazolo[3,4-b]pyrrolo[3,4-e]pyridin-5(1H)-one (Formula II, Ra=pent-3-ynyl, Rb=H, Rc=n-butyl, n=1).
A solution of 1-(n-butyl)-3-ethoxycarbonyl-pyrrolidin-2,4-dione (1.02 g.) in wet acetonitrile (23 ml.) was heated under reflux for 1.5 hours. The acetonitrile was evaporated under reduced pressure, leaving a clear oil which was immediately dissolved in toluene (28 ml.). To this solution was added 5-amino-1-(pent-3-ynyl)-4-cyanopyrazole (0.6 g.) and a catalytic amount of toluene-p-sulphonic acid (0.05 g.). The mixture was heated under reflux overnight, collecting water in a Dean-Stark trap. The reaction mixture was cooled to 0° and diluted with ether. The resulting precipitate was collected by filtration, giving 0.89 g. of 5-[N-(n-butyl)-2-oxo-3-pyrrolin-4-yl]amino-1-(pent-3-ynyl)-4-cyanopyrazole, which was used without further purification.

reactant | 1-(n-butyl)-3-ethoxycarbonyl-pyrrolidin-2,4-dione | 1.02 g | C(CCC)N1C(C(C(C1)=O)C(=O)OCC)=O | C11H17NO4
reactant | 5-amino-1-(pent-3-ynyl)-4-cyanopyrazole | 0.6 g | NC1=C(C=NN1CCC#CC)C#N | C9H10N4
reactant | toluene-p-sulphonic acid | 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetonitrile | 23 ml | C(C)#N | C2H3N
solvent | toluene | 28 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Amino-6-(n-butyl)-6,7-dihydro-1-(pent-3-ynyl)pyrazolo[3,4-b]pyrrolo[3,4-e]pyridin-5(1H)-one | NC1=C2C(=NC3=C1C(N(C3)CCCC)=O)N(N=C2)CCC#CC | C17H21N5O
